US06180622B2
Bromoethyl acetate (0.04 ml) is added to a solution of 42.6 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(5-methylimidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate, described in Example 31-a), in 0.7 ml of dry acetone, and the mixture is stirred in an argon atmosphere at room temperature for one hr. The solvent is removed by evaporation under reduced pressure. The residue is purified by column chromatography on Sephadex LH-20 (dichloromethane:methanol=1:1) to give 49.7 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[6-ethoxycarbonylmethyl-5-methylimidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate bromide as a brown oil.

reactant | Bromoethyl acetate | 0.04 ml | C(C)(=O)OCCBr | C4H7BrO2
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(5-methylimidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 42.6 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=CN2C(S1)=CN=C2C)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C28H34N4O6S2
solvent | acetone | 0.7 ml | CC(=O)C | C3H6O
product | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[6-ethoxycarbonylmethyl-5-methylimidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate bromide | 49.7 mg | [Br-].C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=C[N+]=2C(S1)=CN(C2C)CC(=O)OCC)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C32H41N4O8S2.BrH/c1-7-10-43-31(40)28-29(18(4)27-26(19(5)37)30(39)36(27)28)46-23-13-21(35(15-23)32(41)44-11-8-2)12-22-14-34-20(6)33(16-24(34)45-22)17-25(38)42-9-3;/h7-8,14,16,18-19,21,23,26-27,37H,1-2,9-13,15,17H2,3-6H3;1H/q+1;/p-1/t18-,19-,21-,23+,26-,27-;/m1./s1
